US05219848
Bromine (192 μl) was added to a suspension of 3,4-dihydroxy-6-(methoxycarbonylmethyl)benzaldehyde (0.79 g) in acetic acid (15 ml). The reaction mixture was stirred at ambient temperature for 5-6 hours, diluted with water (30 ml) and extracted into ethyl acetate (200 ml). The organic phase was washed with NaHCO3, water (100 ml) and brine, dried and evaporated under reduced pressure to give a brown solid. This was purified by chromatography using aqueous acetonitrile mixtures to give 3-bromo-4,5-dihydroxy-2-(methoxycarbonylmethyl)benzaldehyde (300 mg); NMR (DMSO-d6) 3.61(s,3H); 4.24(s,2H); 7.24(s,1H); 9.8(s,1H): CI M/S (M+H)+ 291.

reactant | Bromine | 192 μl | BrBr | Br2
reactant | 3,4-dihydroxy-6-(methoxycarbonylmethyl)benzaldehyde | 0.79 g | OC=1C=C(C=O)C(=CC1O)CC(=O)OC | C10H10O5
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 30 ml | O | H2O
product | 3-bromo-4,5-dihydroxy-2-(methoxycarbonylmethyl)benzaldehyde | 300 mg | BrC=1C(=C(C=O)C=C(C1O)O)CC(=O)OC | C10H9BrO5
